US09145380B2
b) (E)-N,N-Diallyl-4-(2-(4-(benzofuran-2-yl)phenyl)vinylsulfonamido)pyridine-3-sulfonamide
A mixture of (E)-N,N-diallyl-4-(2-(4-bromophenyl)vinylsulfonamido)pyridine-3-sulfonamide (0.47 g, 0.94 mmol), 2-benzofuranboronic acid (0.20 g, 1.23 mmol), (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.039 g, 0.050 mmol), cesium carbonate (0.46 g, 1.41 mmol), 1,2-dimethoxyethane (9 mL) and water (1 mL) under an atmosphere of argon was heated at 120° C. for 15 min in a microwave. The reaction mixture was partitioned between ethyl acetate and diluted hydrochloric acid, the organic phase was dried over magnesium sulfate and the solvent was evaporated. Purification by column chromatography, using chloroform/methanol (98:2) as the eluent, gave the title compound in 38% yield.

reactant | (E)-N,N-diallyl-4-(2-(4-bromophenyl)vinylsulfonamido)pyridine-3-sulfonamide | 0.94 mmol, 0.47 g | C(C=C)N(S(=O)(=O)C=1C=NC=CC1NS(=O)(=O)\C=C\C1=CC=C(C=C1)Br)CC=C | C19H20BrN3O4S2
reactant | 2-benzofuranboronic acid | 1.23 mmol, 0.20 g | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | cesium carbonate | 1.41 mmol, 0.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-dimethoxyethane | 9 mL | COCCOC | C4H10O2
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.050 mmol, 0.039 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 1 mL | O | H2O
product | (E)-N,N-Diallyl-4-(2-(4-(benzofuran-2-yl)phenyl)vinylsulfonamido)pyridine-3-sulfonamide | 38% yield | C(C=C)N(S(=O)(=O)C=1C=NC=CC1NS(=O)(=O)\C=C\C1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2)CC=C | C27H25N3O5S2
